US04585767
4-Nitrobenzyl 2-(4-chloro-3-ethyl-azetidin-2-on-1-yl)-3-phenoxy-3-trimethylacetylthiopropenate
To a solution of 2.47 g 4-nitrobenzyl 2-(4-allylthio-3-ethylazetidin-2-on-1-yl)-3-phenoxy-3-trimethylacetylthiopropenate in dichloromethane at -20° was added a solution of 8.4 mmol of chlorine in carbon tetrachloride. After 30 minutes the mixture was warmed to room temperature, evaporated in vacuo, and the residual oil was chromatographed over silica gel. Elution with hexane - ethyl acetate mixtures afforded 1.782 g of the title compound as a pale yellow foam (78% of the theoretical yield).

reactant | 4-nitrobenzyl 2-(4-allylthio-3-ethylazetidin-2-on-1-yl)-3-phenoxy-3-trimethylacetylthiopropenate | 2.47 g | C(C=C)SC1C(C(N1C(C(=S)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C(C(C)(C)C)=O)OC1=CC=CC=C1)=O)CC | C29H32N2O6S2
reactant | chlorine | 8.4 mmol | ClCl | Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Nitrobenzyl 2-(4-chloro-3-ethyl-azetidin-2-on-1-yl)-3-phenoxy-3-trimethylacetylthiopropenate | 1.782 g | ClC1C(C(N1C(C(=S)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C(C(C)(C)C)=O)OC1=CC=CC=C1)=O)CC | C26H27ClN2O6S
